US06875860B2
Preparation of a Complex of 5′-O-(4,4′-dimethoxytrityl)thymidine-(n-butyl acetate) (2:1)
To a stirred solution of 40.0 g of thymidine (0.165 mol) in 500 mL of pyridine was added 56.0 g of dimethoxytrityl chloride (0.165 mol), and the mixture was stirred at room temperature for 3 hours. To the mixture, 16.7 g of sodium hydrogen carbonate was added. The resulting mixture was stirred at room temperature for 30 min and evaporated under a reduced pressure. To the residue was added 500 mL of n-butyl acetate. To the stirred mixture was added 500 mL of water and the mixture was stirred for 10 min. Then, the organic layer was separated and washed with 500 mL of water. The organic layer was evaporated under a reduced pressure. The residue was recrystallized from 900 mL of n-butyl acetate to give a crystalline product, which was then collected by filtration. The crystalline product was dried in vacuo at 50° C. to a constant weight to give 74.6 g of the product. The product was analyzed by high performance chromatography (HPLC) with a reverse-phase octadecyl silica gel column using a mixture of acetonitrile/water (75/25) as an eluent and using a UV detector (254 nm), indicating a purity of 99.6%. A major impurity was 3′,5′-O-bis(4,4′-dimethoxytrityl)thymidine with an HPLC peak area of 0.3%. An yield was 75%.

reactant | 3′,5′-O-bis(4,4′-dimethoxytrityl)thymidine | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)[C@@]2(C[C@@H](O[C@@H]2COC(C2=CC=C(C=C2)OC)(C2=CC=C(C=C2)OC)C2=CC=CC=C2)N2C(=O)NC(=O)C(C)=C2)O)C=C1 | C52H50N2O9
solvent | acetonitrile water | C(C)#N.O
product | 5′-O-(4,4′-dimethoxytrityl)thymidine-(n-butyl acetate) | C(CCC)CC(=O)O[C@H]1C[C@@H](O[C@@H]1COC(C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)C1=CC=CC=C1)N1C(=O)NC(=O)C(C)=C1 | C37H42N2O8
